** sch_path: /home/sscspico/test_tools/coc_analog_vibes/ISSCC25/submitted_notebooks/analog_vibes/sim_pex/runs/RUN_2024-12-01_16-14-17/parameters/slew_params/run_31/tb_slew_pex.sch
**.subckt tb_slew_pex
V0 AVSS GND 0
V1 AVDD AVSS 1.8
I1 AVDD IBIAS1_10U 9.999999999999999e-06
C1 VOUT AVSS 8e-11 m=1
E1 INP IPCM DIFFIN AVSS 0.5
E3 INM IPCM DIFFIN AVSS -0.5
V4 IPCM AVSS 0.9
V5 DIFFIN AVSS pulse(-1.8 1.8 50us 100ns 100ns 50us 100us)
I2 AVDD IBIAS2_10U 9.999999999999999e-06
x1 AVSS AVDD INM INP VOUT IBIAS2_10U IBIAS1_10U ota_pex
**** begin user architecture code

.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/sscspico/miniconda3/share/pdk/sky130A/libs.tech/ngspice/corners/tt.spice
.include /home/sscspico/miniconda3/share/pdk/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include /home/sscspico/miniconda3/share/pdk/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
.include /home/sscspico/miniconda3/share/pdk/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice


.control
tran 10n 150u
let rise_slew = maximum(deriv(v(VOUT)))
let fall_slew = minimum(deriv(v(VOUT)))*-1
echo $&rise_slew $&fall_slew > /home/sscspico/test_tools/coc_analog_vibes/ISSCC25/submitted_notebooks/analog_vibes/sim_pex/runs/RUN_2024-12-01_16-14-17/parameters/slew_params/run_31/tb_slew_pex_31.data
quit
.endc


.temp 125

**** end user architecture code
**.ends

* expanding   symbol:  xschem/ota_pex.sym # of pins=7
** sym_path: /home/sscspico/test_tools/coc_analog_vibes/ISSCC25/submitted_notebooks/analog_vibes/sim_pex/xschem/ota_pex.sym
.include /home/sscspico/test_tools/coc_analog_vibes/ISSCC25/submitted_notebooks/analog_vibes/sim_pex/xschem/ota_pex.spice
.GLOBAL GND
.end
